US04338449
2-Methylamino-5-methyl-4-pivaloyl-4,5-dihydro-1,3,4-thiadiazole
A 10.5 g. portion of 4-methylthiosemicarbazide was combined with 4.4 g. of acetaldehyde, and 7.9 g. of pyridine and 200 ml. of toluene were added. The mixture was stirred for a short time, and 12.1 g. of pivaloyl chloride was added slowly with agitation while the temperature of the mixture was held at 20°-25°. The mixture was then stirred at ambient temperature for 3 hours, and 50 ml. of water was added. The layers were separated, and the toluene layer was washed with water and was then concentrated under vacuum to obtain 21 g. of oil. The oil was dissolved in 25 ml. of hot nitromethane, filtered and cooled gradually to obtain a solid, which was washed with cold nitromethane and vacuum dried at 50° to obtain 14.8 g. of impure product, which was purified by slurrying it twice with 25 ml. portions of cold nitromethane and vacuum drying to obtain 8.3 g. of product, m.p. 102°-103°.

reactant | 4-methylthiosemicarbazide | CNC(NN)=S | C2H7N3S
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Methylamino-5-methyl-4-pivaloyl-4,5-dihydro-1,3,4-thiadiazole | CNC=1SC(N(N1)C(C(C)(C)C)=O)C | C9H17N3OS
